US07049438B2
A mixture of 7-acetoxy-5-tetrahydropyran-4-yloxy-3,4-dihydroquinazolin-4-one (3.04 g), diisopropylethylamine (4.34 ml), phosphoryl chloride (1.02 ml) and 1,2-dichloroethane (60 ml) was stirred and heated to 80° C. for 2 hours. The mixture was evaporated to give 7-acetoxy-4-chloro-5-tetrahydropyran-4-yloxyquinazoline which was used without further purification.

reactant | 7-acetoxy-5-tetrahydropyran-4-yloxy-3,4-dihydroquinazolin-4-one | 3.04 g | C(C)(=O)OC1=CC(=C2C(NC=NC2=C1)=O)OC1CCOCC1 | C15H16N2O5
reactant | diisopropylethylamine | 4.34 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phosphoryl chloride | 1.02 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | 1,2-dichloroethane | 60 ml | ClCCCl | C2H4Cl2
product | 7-acetoxy-4-chloro-5-tetrahydropyran-4-yloxyquinazoline | C(C)(=O)OC1=CC(=C2C(=NC=NC2=C1)Cl)OC1CCOCC1 | C15H15ClN2O4
